US04985422
3,4-Dihydro-2-[(5-methyl-1H-imidazol-4-yl)methyl]-[1]benzothieno[3,2-c]pyridin-1(2H)-one maleate
A solution of 3,4-dihydro-[1]benzothieno[3,2-c]pyridin-1(2H)- one (152mg) in dry DMF (3ml) was added dropwise to a stirred, ice-cooled suspension of sodium hydride (78% dispersion in oil; 29mg) in dry DMF (1ml) under nitrogen and stirring was continued at room temperature for 1.5h. A suspension of 4-chloromethyl-5-methyl-1-(triphenylmethyl)-1H-imidazole (560mg) in dry THF (4ml) was added dropwise and stirring was continued at room temperature for 18h. A mixture of acetic acid (5ml), water (5ml) and THF (5ml) was added and the solution was heated at 100° for 1h, cooled, evaporated and treated with 8% aqueous sodium bicarbonate (35ml). The aqueous phase was extracted with ethyl acetate (2×25ml) and the combined, dried organic extracts were evaporated to give an oil. This was purified by SPCC eluting with System A (923:70:7) to give the free base of the title compound as a foam (32 mg). This was further purified by FCC eluting with System A (89:10:1) to give an oil (20mg). This was dissolved in hot ethanol (3ml) and treated with a solution of maleic acid (8mg) in ethanol (1ml). The resultant solution was evaporated to give the title compound (25mg), m.p. 143°-145°, t.l.c. (System A, 89:10:1) Rf 0.27.

reactant | 3,4-dihydro-[1]benzothieno[3,2-c]pyridin-1(2H)- one | 152mg | C1(NCCC2=C1C1=C(S2)C=CC=C1)=O | C11H9NOS
reactant | sodium hydride | 29mg | [H-].[Na+]
reactant | 4-chloromethyl-5-methyl-1-(triphenylmethyl)-1H-imidazole | 560mg | ClCC=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21ClN2
reactant | acetic acid | 5ml | C(C)(=O)O | C2H4O2
reactant | DMF | 3ml | CN(C)C=O | C3H7NO
reactant | DMF | 1ml | CN(C)C=O | C3H7NO
solvent | THF | 4ml | C1CCOC1 | C4H8O
solvent | THF | 5ml | C1CCOC1 | C4H8O
solvent | water | 5ml | O | H2O
product | 3,4-Dihydro-2-[(5-methyl-1H-imidazol-4-yl)methyl]-[1]benzothieno[3,2-c]pyridin-1(2H)-one maleate | 32 mg | C(\C=C/C(=O)O)(=O)O.CC1=C(N=CN1)CN1C(C2=C(CC1)SC1=C2C=CC=C1)=O | InChI=1S/C16H15N3OS.C4H4O4/c1-10-12(18-9-17-10)8-19-7-6-14-15(16(19)20)11-4-2-3-5-13(11)21-14;5-3(6)1-2-4(7)8/h2-5,9H,6-8H2,1H3,(H,17,18);1-2H,(H,5,6)(H,7,8)/b;2-1-
